US04419352
(a) Methyl 6-acetyl-7-hydroxy-4-phenylthio-8-propyl-quinoline-2-carboxylate
Phenylthiol (1.87 g) was added to a stirred boiling solution of methyl 6-acetyl-4-chloro-7-hydroxy-8-propyl-quinoline-2-carboxylate (4.97 g) in dry methanol (600 ml) and the solution was boiled for 6 hours. The resulting suspension was cooled and the sub-title compound (2.2 g) filtered off and recrystallised from methanol as yellow needles m.p. 171°-2° C.

reactant | Phenylthiol | 1.87 g | C1=CC=C(C=C1)S | C6H6S
reactant | methyl 6-acetyl-4-chloro-7-hydroxy-8-propyl-quinoline-2-carboxylate | 4.97 g | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)OC)Cl | C16H16ClNO4
solvent | methanol | 600 ml | CO | CH4O
product | Methyl 6-acetyl-7-hydroxy-4-phenylthio-8-propyl-quinoline-2-carboxylate | C(C)(=O)C=1C=C2C(=CC(=NC2=C(C1O)CCC)C(=O)OC)SC1=CC=CC=C1 | C22H21NO4S
